US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-cyclopentylthiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and cyclopentyl isothiocyanate by a procedure analogous to the procedure described in example 3-a (yield 46%); 1H-NMR (DMSO-d6): δ1.30-1.70 (m, 6H), 1.90 (m, 2H), 4.40 (sextet, 1H, CH), 6.55 (br, 2H, NH2), 6.65 (s, 1H, H-4), 8.15 (br d, 1H, NH), 11.2 (br s, 1H, NH).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | cyclopentyl isothiocyanate | C1(CCCC1)N=C=S | C6H9NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-cyclopentylthiourea | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NC1CCCC1 | C10H14ClN3O2S3
